US07238725B2
To a stirred suspension of potassium fluoride (457 mg, 7.8 mmol) in dry DMSO (20 ml) was added a solution of isovanillin (1.0 gm, 6.57 mmol) in dry DMSO (20 ml). The reaction contents were heated at 140° C. for 10 min. A solution of 4-fluoro-3-nitrobenzotrifluoride (1.37 gm, 6.57 mmol) in dry DMSO (10 ml) was added to the above suspension and the reaction mixture was stirred at 140° C. for 4.0 h. The reaction mixture was cooled to room temperature and the contents were poured into water (200 ml) and extracted with ethyl acetate (100 ml×3). The organic extracts were combined and washed with 1N sodium hydroxide (50 ml×2), water and brine and dried over anhydrous sodium sulfate. The organic layer was concentrated in vacuo to obtain 3-(2-nitro-4-trifluoromethyl phenoxy)-4-methoxy benzaldehyde as a pale yellow solid (2.0 gm).

reactant | potassium fluoride | 7.8 mmol, 457 mg | [F-].[K+]
reactant | isovanillin | 6.57 mmol, 1.0 gm | O=CC1=CC(O)=C(OC)C=C1 | C8H8O3
reactant | 4-fluoro-3-nitrobenzotrifluoride | 6.57 mmol, 1.37 gm | FC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
reactant | water | 200 ml | O | H2O
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
solvent | DMSO | 20 ml | CS(=O)C | C2H6OS
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
product | 3-(2-nitro-4-trifluoromethyl phenoxy)-4-methoxy benzaldehyde | 2.0 gm | [N+](=O)([O-])C1=C(OC=2C=C(C=O)C=CC2OC)C=CC(=C1)C(F)(F)F | C15H10F3NO5
